US07138415B2
Isoamyl nitrite (15 ml, 108 mmol) was added to a solution of indan-1,2-dione (12 g, 90 mmol) in MeOH (380 ml) at 45° C. followed by concentrated HCl (12 ml) dropwise over 5 minutes. The reaction mixture was stirred for 3 hours at room temperature. Excess isoaamyl nitrite (1 ml) and concentrated HCl (1 ml) was added and the suspension stirred for a further 15 minutes. On cooling to room temperature a white precipitate formed. The precipitate was filtered off and washed with cold MeOH (40 ml) followed by Et2O (40 ml) to afford indan-1,2-dione-2-oxime (6.2 g, 43%) as a white solid.

reactant | Isoamyl nitrite | 108 mmol, 15 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | indan-1,2-dione | 90 mmol, 12 g | C1(C(CC2=CC=CC=C12)=O)=O | C9H6O2
reactant | HCl | 12 ml | Cl | ClH
reactant | nitrite | 1 ml | N(=O)[O-]
reactant | HCl | 1 ml | Cl | ClH
solvent | MeOH | 380 ml | CO | CH4O
product | indan-1,2-dione-2-oxime | 6.2 g, 43% | C1(C(CC2=CC=CC=C12)=NO)=O | C9H7NO2
